US09334269B2
To a solution of 3-(2,4-dichlorophenoxy)azetidine (1.0 g, 4.6 mmol) in isopropanol (14 mL) was added N,N-diisopropylethylamine (DIPEA) (1.0 mL, 6.9 mmol) and 2,4-dichloropyrimidine (0.686 g, 4.6 mmol and the reaction mixture was heated at 80° C. for 7 h. The mixture was concentrated under reduced pressure and extracted with EtOAc (2×20 mL) and water (2×20 mL). The organic extracts were washed with brine, dried over anhydrous sodium sulfate and concentrated under reduced pressure. Purification by silica gel column chromatography provided 2-chloro-4-(3-(2,4-dichlorophenoxy)azetidin-1-yl)pyrimidine (0.600 g, 40%) as a solid. Observed mass (M+1): 330.0

reactant | 3-(2,4-dichlorophenoxy)azetidine | 4.6 mmol, 1.0 g | ClC1=C(OC2CNC2)C=CC(=C1)Cl | C9H9Cl2NO
reactant | N,N-diisopropylethylamine | 6.9 mmol, 1.0 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 2,4-dichloropyrimidine | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
solvent | isopropanol | 14 mL | C(C)(C)O | C3H8O
product | 2-chloro-4-(3-(2,4-dichlorophenoxy)azetidin-1-yl)pyrimidine | 0.600 g, 40% | ClC1=NC=CC(=N1)N1CC(C1)OC1=C(C=C(C=C1)Cl)Cl | C13H10Cl3N3O
